US07470680B2
3-(piperidin-4-yl)-4,5-dihydro-1H-benzo[d][1,3]diazepin-2(3H)-one.
3-(1-Benzylpiperidin-4-yl)-4,5-dihydro-1H-benzo [d][1,3]diazepin-2(3H)-one (1.30 g, 3.88 mmol) was dissolved in methanol (50 ml). 10% Palladium on carbon (650 mg) was added to the mixture. Reaction vessel was placed on a Parr apparatus and charged with 60 psi of hydrogen gas. Reaction shook at room temperature for 15 hours. Reaction was removed from the apparatus. Mixture was filtered through a 0.45 μm PVDF membrane. Filtrate was concentrated to dryness. Title compound was obtained as white solid in 82% yield. MS (M+H)+=246.4.

reactant | 3-(1-Benzylpiperidin-4-yl)-4,5-dihydro-1H-benzo [d][1,3]diazepin-2(3H)-one | 3.88 mmol, 1.30 g | C(C1=CC=CC=C1)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C21H25N3O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
catalyst | Palladium on carbon | 650 mg | [Pd] | Pd
product | 3-(piperidin-4-yl)-4,5-dihydro-1H-benzo[d][1,3]diazepin-2(3H)-one | 82% yield | N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C14H19N3O
